US05834506
[5-(1,1-Dimethylethyl)-2-methyl-4-[[(4-methylphenyl)sulfonyl]thio]phenyl]-imidodicarbonic acid bis(1,1-dimethylethyl) ester
A solution of tosyl bromide (17.1 g, 72.73 mmol) and NEt3 (7.36 g, 72.73 mmol) in CCl4 (250 mL) was cooled to 0° C. To this solution was added [5-(1,1-dimethylethyl)-4-mercapto-2-methylphenyl]-imidodicarbonic acid bis(1,1-dimethylethyl) ester obtained from Example FFFF in CCl4 (250 mL) dropwise over an 8 hour period. The mixture was then allowed to warm to room temperature overnight. Chloroform was added, and the solution was washed with H2O and brine, dried (Na2SO4), filtered and concentrated. The resulting material was flash chromatographed on silica gel, eluting with 4:1 CHCl3 :hexanes to afford the title compound. 1H NMR (CDCl3) δ 1.16 (s, 9 H), 1.40 (s, 18 H), 2.10 (s, 3 H), 2.40 (s, 3 H), 7.07 (s, 1 H), 7.19 (d, 2 H), 7.40 (s, 1 H), 7.44 (d, 2 H).

reactant | tosyl bromide | 72.73 mmol, 17.1 g | S(=O)(=O)(C1=CC=C(C)C=C1)Br | C7H7BrO2S
reactant | NEt3 | 72.73 mmol, 7.36 g | CCN(CC)CC | C6H15N
reactant | [5-(1,1-dimethylethyl)-4-mercapto-2-methylphenyl]-imidodicarbonic acid bis(1,1-dimethylethyl) ester | CC(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C1=C(C=C(C(=C1)C(C)(C)C)S)C | C21H33NO4S
reactant | Chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | CCl4 | 250 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CCl4 | 250 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | [5-(1,1-Dimethylethyl)-2-methyl-4-[[(4-methylphenyl)sulfonyl]thio]phenyl]-imidodicarbonic acid bis(1,1-dimethylethyl) ester | CC(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C1=C(C=C(C(=C1)C(C)(C)C)SS(=O)(=O)C1=CC=C(C=C1)C)C | C28H39NO6S2
